US04276417
4.0 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 50 ml. of methylene chloride and 5 ml. of triethylamine and cooled to 0° C. 5 ml. of benzyl chloroformate are slowly added dropwise while stirring. The mixture is then stirred at 0° C. for 1 hour, subsequently treated with water and adjusted to pH 4 with 2-N hydrochloric acid. The aqueous phase is extracted twice with methylene chloride and the combined organic extracts are dried over sodium sulfate and evaporated. The residue is recrystallized from methylene chloride and diethyl ether, there being obtained pure benzyl 5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate, having a melting point of 171°-173° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | benzyl 5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate | C(C=C)N(C1=NC=2N(C(=N1)NC(=O)OCC1=CC=CC=C1)OC(N2)=O)CC=C | C18H18N6O4
